US07834039B2
To a 250 mL RBF equipped with a stir bar was charged with 2-chloro-4-cyanobenzoic acid (3.0 g, 16.52 mmol), anhydrous DCM (80 mL), and DMF (0.064 mL, 0.826 mmol). Oxalyl chloride (8.26 mL, 16.52 mmol) (2M solution in DCM) was then added slowly and the mixture was stirred under nitrogen at ambient temperature. Upon addition of the oxalyl chloride, gas evolution began and the suspended solid began to dissolve. After about 2-3 hours, the reaction became translucent. The mixture was concentrated in vacuo. The resulting crude material was dissolved in pyridine (50 mL). To this was added (Z)-3-chloro-N′-hydroxy-4-isopropoxybenzimidamide (1.258 g, 5.50 mmol). The mixture was heated to about 100° C. under an atmosphere of nitrogen for about 16 hrs. The resulting mixture was cooled to ambient temperature. Pyridine was removed under reduced pressure and the resulting material was triturated in DCM and MeOH mixture (about 1:1). The resulting precipitate was left standing for a few minutes at ambient temperature then was collected via filtration, washed with a mixture of 1:1 DCM/MeOH, and then with straight MeOH and dried in a vacuum oven for about 48 hrs to yield 3-chloro-4-(3-(3-chloro-4-isopropoxyphenyl)-1,2,4-oxadiazol-5-yl)benzonitrile (1.529 g, 4.09 mmol) as a beige solid. 1H NMR (400 MHz, DMSO) δ ppm 8.39 (d, J=1.53 Hz, 1H), 8.35 (d, J=8.15 Hz, 1H), 8.09 (dd, J=8.14, 1.53 Hz, 1H), 8.05 (d, J=2.11 Hz, 1H), 8.00 (dd, J=8.63, 2.12 Hz, 1H), 7.39 (d, J=8.82 Hz, 1H), 4.82 (sept, J=6.04 Hz, 1H), 1.35 (d, J=6.01 Hz, 6H).

reactant | 2-chloro-4-cyanobenzoic acid | 16.52 mmol, 3.0 g | ClC1=C(C(=O)O)C=CC(=C1)C#N | C8H4ClNO2
reactant | DMF | 0.826 mmol, 0.064 mL | CN(C)C=O | C3H7NO
reactant | Oxalyl chloride | 16.52 mmol, 2M, 8.26 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | (Z)-3-chloro-N′-hydroxy-4-isopropoxybenzimidamide | 5.50 mmol, 1.258 g | ClC=1C=C(/C(/N)=N/O)C=CC1OC(C)C | C10H13ClN2O2
solvent | DCM | 80 mL | C(Cl)Cl | CH2Cl2
product | 3-chloro-4-(3-(3-chloro-4-isopropoxyphenyl)-1,2,4-oxadiazol-5-yl)benzonitrile | 4.09 mmol, 1.529 g | ClC=1C=C(C#N)C=CC1C1=NC(=NO1)C1=CC(=C(C=C1)OC(C)C)Cl | C18H13Cl2N3O2
